US04436660
6 g of cyanogen chloride are introduced within 1 hour into a solution, heated to 80°, of 9.64 g of 5H-dibenz[b,f]azepine and 1 g of benzyltriethylammonium chloride in 40 ml of toluene. The reaction mixture is stirred for a further 5 hours at 80°; it is then cooled to room temperature and washed with 40 ml of 2 N sodium hydroxide solution; the organic phase is separated, and is then evaporated to dryness in vacuo to obtain 5-cyano-5H-dibenz[b,f]azepine, which is identical to the product obtainable according to Example 1; m.p. 107°-108°; yield 6.2 g (56.9% of theory).

reactant | cyanogen chloride | 6 g | N#CCl | CClN
reactant | 5H-dibenz[b,f]azepine | 9.64 g | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
catalyst | benzyltriethylammonium chloride | 1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-cyano-5H-dibenz[b,f]azepine | C(#N)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C15H10N2
